Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left prosthetic hip dislocation
 
Major Surgical or Invasive Procedure:
___: OR for closed reduction left hip under anesthesia

 
History of Present Illness:
___ female with recent left hip replacement on ___ 
at ___ with ___. The patient was using her normal 
precautions, preparing to put her pants on, when she twisted 
slightly to the right and then returned to the left. At this 
time, she felt a pop and pain in her left leg. She has been
unable to ambulate since that time. She denies any falls, 
paresthesias.

 
Past Medical History:
HTN, GERD
L hip replacement ___ ___, Dr. ___

 
___ History:
___
Family History:
NC
 
Physical Exam:
Discharge Exam:
Gen: NAD, AOx3
CV: RRR
Resp: CTAB
Abd: Soft, NT/ND
Extrem:
LLE:
SILT s/s/sp/dp/t nerve distributions
Firing ___
2+ ___ pulses
Foot wwp, good cap refill
 
Pertinent Results:
___ L Hip XR:
Images show total bilateral hip arthroplasty with reduction of 
the left hip now in anatomic alignment. 

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have left prosthetic hip dislocation and was admitted to the 
orthopedic surgery service. The patient was taken to the 
operating room on ___ for closed reduction of left hip under 
anesthesia which the patient tolerated well. For full details of 
the procedure please see the separately dictated operative 
report. The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor.  The patient was given anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. ON POD 0 she was on oral pain 
medications only. The patient did not need to work with ___, was 
fitted with abduction brace, 30 degrees abduction and ___ 
degrees of flexion. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
weight bearing as tolerated in the left lower extremity with 
abduction brace 30 in degrees abduction and ___ degrees of 
flexion at all times. The patient will follow up with Dr. ___ 
___ routine in 2 weeks. A thorough discussion was had with the 
patient regarding the diagnosis and expected post-discharge 
course including reasons to call the office or return to the 
hospital, and all questions were answered. The patient was also 
given written instructions concerning precautionary instructions 
and the appropriate follow-up care. The patient expressed 
readiness for discharge.

 
Medications on Admission:
AmLODIPine 2.5 mg PO DAILY  
LORazepam 0.5 mg PO QHS:PRN insomnia  
Nadolol 20 mg PO DAILY  
Omeprazole 20 mg PO BID  
Simvastatin 20 mg PO QPM  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  amLODIPine 2.5 mg PO DAILY  
5.  LORazepam 0.5 mg PO QHS:PRN insomnia  
6.  Nadolol 20 mg PO DAILY  
7.  Omeprazole 20 mg PO BID  
8.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left prosthetic hip dislocation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- weight bearing as tolerated in hip abduction brace at all 
times, 30 degrees of abduction, ___ degrees of flexion

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- None needed

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

FOLLOW UP:
Please follow up with your Orthopaedic Surgeon, Dr. ___ in 2 
weeks. Call ___ to schedule appointment upon discharge.

Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for and any new 
medications/refills.
 
Followup Instructions:
___